US08168658B2
Step B: Tert-butyl 4-[2-(dimethylamino)-3-ethoxy-3-oxopropyl]benzoate.
Ethyl (dimethylamino)acetate (0.16 mL, 1.11 mmol) was dissolved in THF (10 mL) and cooled to −78° C. LiHMDS (1.2 mL, 1M solution in THF) was added. The reaction was allowed to stir about 30 minutes. Tert-butyl 4-(bromomethyl)benzoate (0.3063 g, 1.13 mmol) in THF (3 mL) was slowly added to the reaction. The reaction was allowed to stir overnight under nitrogen, slowly warming to room temperature. The reaction was quenched with saturated ammonium chloride and diluted with ethyl acetate. The resulting mixture was separated. The aqueous layer was extracted three times with ethyl acetate. The combined organic layer was dried with sodium sulfate, filtered, and concentrated. The resulting residue was purified by column chromatography. 1H NMR 600 MHz (CDCl3) δ 7.87 (m, 2H), 7.24 (m, 2H), 4.08 (m, 1H), 4.06 (m, 1H), 3.41 (dd, 1H, J=9.2, 6.0), 3.07 (dd, 1H, J=13.5, 9.3), 2.97 (dd, 1H, J=13.4, 5.8), 2.39 (s, 6H), 1.56 (s, 9H), 1.16 (m, 3H). MS: cal'd 322 (MH+), exp 322 (MH+).

reactant | Ethyl (dimethylamino)acetate | 1.11 mmol, 0.16 mL | CN(C)CC(=O)OCC | C6H13NO2
reactant | LiHMDS | 1M, 1.2 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Tert-butyl 4-(bromomethyl)benzoate | 1.13 mmol, 0.3063 g | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | Tert-butyl 4-[2-(dimethylamino)-3-ethoxy-3-oxopropyl]benzoate | CN(C(CC1=CC=C(C(=O)OC(C)(C)C)C=C1)C(=O)OCC)C | C18H27NO4
